US05919470
Octadecanoic acid, 2,3-dihydroxypropyl ester
Octadecanoic acid, monoester with 1,2,3-propanetriol

reactant | Octadecanoic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | 1,2,3-propanetriol | C(C(CO)O)O | C3H8O3
product | Octadecanoic acid, 2,3-dihydroxypropyl ester | C(CCCCCCCCCCCCCCCCC)(=O)OCC(CO)O | C21H42O4
